* Handwritten netlist for puzzle
*.include "C:/Users/mwern/KLayout/salt/Efabless_sky130/tech/sky130/lvs/standard_cells/include_hd.cdl"
*.include "include_hd.cdl"
.include "subckts.spice"

.SUBCKT puzzle I O[0] O[1] O[2] O[3] O[4] O[5] O[6] O[7] VGND VPWR clk enable rst_n success

*clkbuf sch: A VGND VNB VPB VPWR X
*clkbuf_16 lay: VGND A X VPWR VPB sky130_gnd
Xclkd VGND clk clkd VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_16

* clkbuf_8 sch: A VGND VNB VPB VPWR X
* clkbuf_8 lay:  VGND A X VPWR VPB sky130_gnd

X$46 VGND clkd \$1875 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$47 VGND clkd \$3890 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$48 VGND clkd \$784 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$49 VGND clkd \$2216 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$50 VGND clkd \$3828 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$51 VGND clkd \$2289 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$52 VGND clkd \$3250 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$53 VGND clkd \$2294 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$54 VGND clkd \$983 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$55 VGND clkd \$1649 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$56 VGND clkd \$1460 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$57 VGND clkd \$2728 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8
X$59 VGND clkd \$3588 VPWR \$I13875 VGND sky130_fd_sc_hd__clkbuf_8
X$60 VGND clkd \$2155 VPWR \$I13868 VGND sky130_fd_sc_hd__clkbuf_8
X$61 VGND clkd \$3066 VPWR \$I13866 VGND sky130_fd_sc_hd__clkbuf_8
X$2135 VGND clkd clkdd16 VPWR VPWR VGND sky130_fd_sc_hd__clkbuf_8


* cell sky130_fd_sc_hd__dfrtp_2: d flop with reset_b 
*.SUBCKT sky130_fd_sc_hd__dfrtp_2 VGND RESET_B Q CLK D VPWR VPB sky130_gnd
X$178 VGND rst_n \$1126 clkdd16 \$1026 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$179 VGND rst_n \$3906 \$3828 \$3951 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$180 VGND rst_n \$3381 \$3066 \$3385 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$181 VGND rst_n \$689 clkdd16 \$686 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$183 VGND rst_n \$1742 \$1460 \$1768 VPWR \$I12730 VGND sky130_fd_sc_hd__dfrtp_2
X$184 VGND rst_n \$2221 \$2289 \$2267 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$185 VGND rst_n \$2462 \$2295 \$2530 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$186 VGND rst_n \$347 \$784 \$1538 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$187 VGND rst_n \$3158 \$2295 \$3217 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$188 VGND rst_n \$2020 \$2155 \$2140 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$189 VGND rst_n \$416 \$1649 \$1765 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$190 VGND rst_n \$2185 \$1875 \$2135 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$191 VGND rst_n \$1220 \$983 \$1243 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$192 VGND rst_n \$2850 \$2295 \$2793 VPWR \$I12721 VGND sky130_fd_sc_hd__dfrtp_2
X$193 VGND rst_n \$2265 \$2216 \$2423 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$194 VGND rst_n \$2266 \$2289 \$2438 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$195 VGND rst_n \$1618 \$1460 \$1764 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$196 VGND rst_n \$2732 \$2155 \$2762 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$197 VGND rst_n \$2812 \$2728 \$2826 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$198 VGND rst_n \$1960 \$1875 \$2002 VPWR \$I13390 VGND sky130_fd_sc_hd__dfrtp_2
X$199 VGND rst_n \$1140 clkdd16 \$1223 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$200 VGND rst_n \$929 \$784 \$975 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$201 VGND rst_n \$4089 \$3890 \$4127 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$202 VGND rst_n \$3387 \$3250 \$3442 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$203 VGND rst_n \$882 \$983 \$879 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$204 VGND rst_n \$3902 \$3890 \$3848 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$205 VGND rst_n \$340 \$2216 \$2490 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$206 VGND rst_n \$1288 clkdd16 \$1302 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$207 VGND rst_n \$3692 \$3250 \$3749 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$208 VGND rst_n \$4168 \$3890 \$4171 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$209 VGND rst_n success \$3588 \$4257 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$210 VGND rst_n \$3475 \$3250 \$3535 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$211 VGND rst_n \$2458 \$2216 \$2524 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$212 VGND rst_n \$3178 \$3066 \$3264 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$213 VGND rst_n \$1555 \$1460 \$1557 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$214 VGND rst_n \$1781 \$1460 \$1937 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$215 VGND rst_n \$2017 \$2155 \$2124 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$216 VGND rst_n \$2657 \$2728 \$3100 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$217 VGND rst_n \$3785 \$3828 \$3788 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$218 VGND rst_n \$425 \$2216 \$2247 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$219 VGND rst_n \$1272 \$983 \$1298 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$220 VGND rst_n \$2376 \$2289 \$2437 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$221 VGND rst_n \$2021 \$2155 \$2053 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$222 VGND rst_n \$782 \$784 \$734 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$223 VGND rst_n \$980 clkdd16 \$1092 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$224 VGND rst_n \$4317 \$3828 \$4287 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$225 VGND rst_n \$4189 \$3828 \$4188 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$226 VGND rst_n \$2104 \$1875 \$2108 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$227 VGND rst_n \$2052 \$2155 \$2194 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$228 VGND rst_n \$2229 \$2155 \$2254 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$229 VGND rst_n \$2222 \$1875 \$2189 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$230 VGND rst_n \$3481 \$3250 \$3636 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$231 VGND rst_n \$1730 \$1649 \$1776 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$232 VGND rst_n \$1513 \$1649 \$1619 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$233 VGND rst_n \$1281 clkdd16 \$1386 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$234 VGND rst_n \$864 \$2216 \$2542 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$236 VGND rst_n \$1221 \$983 \$1254 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$237 VGND rst_n \$1879 \$1875 \$1878 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$238 VGND rst_n \$27 \$2216 \$2324 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$239 VGND rst_n \$1652 \$1649 \$1571 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$240 VGND rst_n \$4285 \$3890 \$4290 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$241 VGND rst_n \$4031 \$3828 \$4030 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$242 VGND rst_n \$3168 \$3066 \$3176 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$243 VGND rst_n \$2224 \$2289 \$2352 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$244 VGND rst_n \$2377 \$2289 \$2379 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$245 VGND rst_n \$3057 \$2728 \$3054 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$246 VGND rst_n \$2223 \$1875 \$2137 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$247 VGND rst_n \$2548 \$2295 \$2602 VPWR \$I12667 VGND sky130_fd_sc_hd__dfrtp_2
X$248 VGND rst_n \$1454 \$1460 \$1708 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$249 VGND rst_n \$3791 \$3250 \$3892 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$250 VGND rst_n \$3691 \$3250 \$3700 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$251 VGND rst_n \$4197 \$3890 \$4245 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$252 VGND rst_n \$1048 \$983 \$966 VPWR \$I12662 VGND sky130_fd_sc_hd__dfrtp_2
X$254 VGND rst_n \$1503 \$983 \$1554 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$255 VGND rst_n \$2211 \$2295 \$2296 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$256 VGND rst_n \$2894 \$2295 \$2973 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$257 VGND rst_n \$688 \$784 \$827 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$258 VGND rst_n \$837 \$784 \$920 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$259 VGND rst_n \$4196 \$3890 \$4192 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$260 VGND rst_n \$418 \$1649 \$1563 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$261 VGND rst_n \$3981 \$3588 \$4214 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$262 VGND rst_n \$3813 \$3588 \$4316 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$263 VGND rst_n \$417 \$1649 \$1791 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2
X$392 VGND rst_n \$609 \$784 \$643 VPWR VPWR VGND sky130_fd_sc_hd__dfrtp_2

*.SUBCKT sky130_fd_sc_hd__a31o_2 VPB X A3 A2 VPWR A1 VGND B1 sky130_gnd
X$499 VPWR \$3217 \$933 \$1506 VPWR \$1558 VGND \$3158 VGND sky130_fd_sc_hd__a31o_2

*.SUBCKT sky130_fd_sc_hd__mux2_1 VGND X A1 A0 S VPWR VPB sky130_gnd
X$586 VGND \$2530 I      \$2462 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$595 VGND \$2524 \$2462 \$2458 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$583 VGND \$2602 \$2458 \$2548 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$591 VGND \$2437 \$2548 \$2376 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$593 VGND \$2423 \$2376 \$2265 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$579 VGND \$2189 \$2265 \$2222 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$587 VGND \$2267 \$2222 \$2221 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$580 VGND \$2108 \$2221 \$2104 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$578 VGND \$2135 \$2104 \$2185 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$574 VGND \$2137 \$2185 \$2223 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$581 VGND \$2352 \$2223 \$2224 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$575 VGND \$2379 \$2224 \$2377 \$933 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1

X$576 VGND \$430 \$306 \$58 \$31 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1

X$582 VGND \$1695 \$1773 \$1558 \$1700 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$584 VGND \$1702 \$1783 \$1650 \$1652 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$588 VGND \$1538 \$1566 \$1564 \$347 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$589 VGND \$627 \$317 \$631 \$49 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$592 VGND \$856 \$83 \$811 \$572 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$594 VGND \$558 \$35 \$30 \$51 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1
X$596 VGND \$2048 \$1527 \$1363 \$1362 VPWR \$I13343 VGND sky130_fd_sc_hd__mux2_1
X$2596 VGND \$83 \$120 \$72 \$49 VPWR VPWR VGND sky130_fd_sc_hd__mux2_1

*.SUBCKT sky130_fd_sc_hd__a22o_2 VGND B2 B1 A1 A2 X VPWR VPB sky130_gnd A1A2+B1B2
X$354 VGND \$2377 \$1787 \$1705 \$2462 \$2286 VPWR VPWR VGND sky130_fd_sc_hd__a22o_2
*.SUBCKT sky130_fd_sc_hd__a221o_2 VGND C1 B2 B1 A1 A2 X VPWR VPB sky130_gnd
X$169 VGND \$2286 \$2224 VPWR \$1733 \$2223 \$2419 VPWR VPWR VGND sky130_fd_sc_hd__a221o_2


* .SUBCKT sky130_fd_sc_hd__buf_2 VPB VGND X VPWR A sky130_gnd
X$585 VPWR VGND \$1787 VPWR \$1705 VGND sky130_fd_sc_hd__buf_2

*.SUBCKT sky130_fd_sc_hd__dfxtp_2 VGND Q CLK D VPWR VPB sky130_gnd
X$9 VGND \$1363 \$3588 \$3994 VPWR VPWR VGND sky130_fd_sc_hd__dfxtp_2
X$10 VGND \$1413 \$3588 \$3919 VPWR VPWR VGND sky130_fd_sc_hd__dfxtp_2
X$11 VGND \$1362 \$3066 \$4002 VPWR VPWR VGND sky130_fd_sc_hd__dfxtp_2
X$539 VGND \$1527 \$3066 \$3882 VPWR VPWR VGND sky130_fd_sc_hd__dfxtp_2

*.SUBCKT sky130_fd_sc_hd__dfstp_2 VGND SET_B Q CLK D VPWR VPB sky130_gnd
X$12 VGND rst_n \$2651 \$3066 \$3068 VPWR VPWR VGND sky130_fd_sc_hd__dfstp_2
X$13 VGND rst_n \$2906 \$2728 \$2987 VPWR VPWR VGND sky130_fd_sc_hd__dfstp_2
X$14 VGND rst_n \$2753 \$2728 \$2921 VPWR VPWR VGND sky130_fd_sc_hd__dfstp_2
X$404 VGND rst_n \$2815 \$2728 \$2743 VPWR VPWR VGND sky130_fd_sc_hd__dfstp_2


* clkbuf_4: drives nothing
*.SUBCKT sky130_fd_sc_hd__clkbuf_4 VPB VGND VPWR A sky130_gnd
X$62 VPWR VGND VPWR \$2288 VGND sky130_fd_sc_hd__clkbuf_4
X$63 \$I13875 VGND VPWR \$3588 VGND sky130_fd_sc_hd__clkbuf_4
X$64 VPWR VGND VPWR \$3250 VGND sky130_fd_sc_hd__clkbuf_4
X$65 VPWR VGND VPWR \$1875 VGND sky130_fd_sc_hd__clkbuf_4
X$66 VPWR VGND VPWR \$1460 VGND sky130_fd_sc_hd__clkbuf_4
X$67 VPWR VGND VPWR \$3828 VGND sky130_fd_sc_hd__clkbuf_4
X$68 VPWR VGND VPWR \$983 VGND sky130_fd_sc_hd__clkbuf_4
X$69 VPWR VGND VPWR \$1649 VGND sky130_fd_sc_hd__clkbuf_4
X$70 VPWR VGND VPWR \$2728 VGND sky130_fd_sc_hd__clkbuf_4
X$71 VPWR VGND VPWR \$784 VGND sky130_fd_sc_hd__clkbuf_4
X$72 \$I13868 VGND VPWR \$2155 VGND sky130_fd_sc_hd__clkbuf_4
X$73 VPWR VGND VPWR \$3890 VGND sky130_fd_sc_hd__clkbuf_4
X$74 VPWR VGND VPWR \$2216 VGND sky130_fd_sc_hd__clkbuf_4
X$75 VPWR VGND VPWR \$2294 VGND sky130_fd_sc_hd__clkbuf_4
X$2134 VPWR VGND VPWR clkdd16 VGND sky130_fd_sc_hd__clkbuf_4



* nand4_2 sch: inst A B C D VGND VNB VPB VPWR Y
* nand4_2 lay: inst VGND D C B A VPWR Y VPB sky130_gnd

X$147 VGND \$1288 \$1287 \$933 I VPWR \$1262 VPWR VGND sky130_fd_sc_hd__nand4_2
X$148 VGND \$3793 \$3791 \$933 I VPWR \$3824 VPWR VGND sky130_fd_sc_hd__nand4_2
X$149 VGND \$4032 \$4031 \$933 I VPWR \$4124 VPWR VGND sky130_fd_sc_hd__nand4_2
X$150 VGND \$4242 \$4197 \$933 I VPWR \$4238 VPWR VGND sky130_fd_sc_hd__nand4_2
X$151 VGND \$1439 \$1454 \$933 I VPWR \$1582 VPWR VGND sky130_fd_sc_hd__nand4_2
X$152 VGND \$2018 \$2016 \$933 I VPWR \$2076 VPWR VGND sky130_fd_sc_hd__nand4_2
X$153 VGND \$2144 \$2212 \$933 I VPWR \$2293 VPWR VGND sky130_fd_sc_hd__nand4_2
X$154 VGND \$1740 \$1742 \$933 I VPWR \$1743 VPWR VGND sky130_fd_sc_hd__nand4_2
X$155 VGND \$3575 \$3482 \$933 I VPWR \$3530 VPWR VGND sky130_fd_sc_hd__nand4_2
X$156 VGND \$4020 \$3906 \$933 I VPWR \$3908 VPWR VGND sky130_fd_sc_hd__nand4_2
X$157 VGND \$4294 \$4285 \$933 I VPWR \$4352 VPWR VGND sky130_fd_sc_hd__nand4_2
X$159 VGND \$1960 \$1959 \$933 I VPWR \$1958 \$I13390 VGND sky130_fd_sc_hd__nand4_2
X$160 VGND \$3116 \$2894 \$933 I VPWR \$2888 \$I13591 VGND sky130_fd_sc_hd__nand4_2

*.SUBCKT sky130_fd_sc_hd__and2b_2 VPB A_N VPWR B VGND X sky130_gnd
X$386 \$I13622 \$3159 VPWR enable VGND \$933 VGND sky130_fd_sc_hd__and2b_2

*.SUBCKT sky130_fd_sc_hd__and3_2 VPB A VPWR B C VGND X sky130_gnd
X$552 \$I10290 \$3813 VPWR \$3623 \$3868 VGND O[5] VGND sky130_fd_sc_hd__and3_2
X$554 VPWR \$3813 VPWR \$3620 \$3868 VGND O[3] VGND sky130_fd_sc_hd__and3_2
X$556 VPWR \$3813 VPWR \$3628 \$3868 VGND O[4] VGND sky130_fd_sc_hd__and3_2
X$557 VPWR \$3813 VPWR \$3504 \$3868 VGND O[6] VGND sky130_fd_sc_hd__and3_2
X$558 VPWR \$3813 VPWR \$3874 \$3868 VGND O[1] VGND sky130_fd_sc_hd__and3_2
X$569 VPWR \$3813 VPWR \$3515 \$3868 VGND O[7] VGND sky130_fd_sc_hd__and3_2
X$572 VPWR \$3813 VPWR \$3734 \$3868 VGND O[0] VGND sky130_fd_sc_hd__and3_2
X$573 VPWR \$3813 VPWR \$3497 \$3868 VGND O[2] VGND sky130_fd_sc_hd__and3_2

*** success output pin (dfrtp above) ***
X$291 VPWR VPWR \$1103 VGND \$4041 \$3981 success VGND sky130_fd_sc_hd__o21ba_2
X$396 VGND \$4257 \$4255 \$2270 \$4203 success \$4252 VPWR VPWR VGND sky130_fd_sc_hd__a32o_2
*.SUBCKT sky130_fd_sc_hd__inv_2 VPB VGND VPWR Y A sky130_gnd
X$1770 VPWR VGND VPWR \$3954 success VGND sky130_fd_sc_hd__inv_2
*.SUBCKT sky130_fd_sc_hd__or4b_2 VPB \$2 VGND C B A VPWR X \$9 D_N \$12 \$13 \$14 sky130_gnd
*X$85 VPWR \$I13766 VGND \$1103 success \$737 VPWR \$3913 \$I13783 \$3981 \$I13713 \$I13721 \$I13745 VGND sky130_fd_sc_hd__or4b_2
*** success_b ***
*.SUBCKT sky130_fd_sc_hd__a211oi_2 VGND Y C1 B1 A1 A2 VPWR VPB sky130_gnd
X$22 VGND \$3437 \$737 \$1103 \$3954 \$3981 VPWR VPWR VGND sky130_fd_sc_hd__a211oi_2

.ENDS puzzle

*** Std Cells that need special definition
* cell sky130_fd_sc_hd__conb_1
* pin VPB
* pin HI,VPWR
* pin LO,VGND
*.SUBCKT sky130_fd_sc_hd__conb_1 VPB HI LO
*.ENDS sky130_fd_sc_hd__conb_1
